US08193228B2
At 30° C., 3,3-dimethylpent-4-enal (126 g, 0.34 mol) was added over 20 minutes to an ambient temperature, saturated solution of ammonia in methanol (2.7 L). After stirring at 40° C. for 30 minutes, TosMIC (67 g, 0.4 mol) was added. After stirring at reflux overnight, the reaction mixture was concentrated, dissolved in ether and poured into 2N ammonium hydroxide (1500 mL) and stirred. The aqueous phase was extracted with ether. The combined organic extracts were washed with brine, dried (magnesium sulfate), filtered, and concentrated in vacuo to afford 4-(2,2-dimethylbut-3-en-1-yl)-1H-imidazole which was used in the subsequent step without further purification.

reactant | 3,3-dimethylpent-4-enal | 0.34 mol, 126 g | CC(CC=O)(C=C)C | C7H12O
reactant | ammonia | N | H3N
reactant | TosMIC | 0.4 mol, 67 g | CC1=CC=C(C=C1)S(=O)(=O)C[N+]#[C-] | C9H9NO2S
solvent | methanol | 2.7 L | CO | CH4O
product | 4-(2,2-dimethylbut-3-en-1-yl)-1H-imidazole | CC(CC=1N=CNC1)(C=C)C | C9H14N2
